US09387204B2
Step 5: 4-[3-(4-fluorophenyl)imidazo[1,2-a]pyrimidin-2-yl]benzaldehyde
0.225 g (0.74 mM) 4-(3-bromoimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde is dissolved in 5 mL of toluene. To this mixture is added 4-fluorphenyl boronic acid (1.5 eq) followed by tetrakis triphenylphosphine palladium (0) 10% by wt, K2CO3 (3 eq) and ethanol water mixture (4 mL). The reaction mixture is heated at 90° C. for 4-6 h. The reaction is cooled to room temperature and 20 mL of water is added and the reaction mixture is extracted with ethyl acetate. The organic layer is dried and concentrated. The crude is purified by flash column chromatography to yield the desired compound.

reactant | 4-(3-bromoimidazo[1,2-a]pyrimidin-2-yl)benzaldehyde | 0.74 mM, 0.225 g | BrC1=C(N=C2N1C=CC=N2)C2=CC=C(C=O)C=C2 | C13H8BrN3O
reactant | 4-fluorphenyl boronic acid | 1.5 eq | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 3 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol water | 4 mL | O.C(C)O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
product | 4-[3-(4-fluorophenyl)imidazo[1,2-a]pyrimidin-2-yl]benzaldehyde | FC1=CC=C(C=C1)C1=C(N=C2N1C=CC=N2)C2=CC=C(C=O)C=C2 | C19H12FN3O
